US04540806
13-Amino-5,6,7,8,9,10-hexahydro-5-methyl-5,11-methanobenzocyclodecen-3-ol hydrochloride hemihydrate
13-Amino-5,6,7,8,9,10,11,12-octahydro-5-methyl-5,11-methanobenzocyclodecen-3,12-diol (0.7 g., 0.002 mole) was dissolved in 20 mL of boiling ethanol. To this solution was added 5 mL ethanol saturated with hydrogen chloride and was allowed to stand overnight. The solvent was evaporated under reduced pressure and the resulting residue was recrystallized from acetone-ethanol (5:1) to afford 400 mg (70% yield) of the title compound as a hydrochloride hemihydrate, mp 216°-218° C.

reactant | 13-Amino-5,6,7,8,9,10,11,12-octahydro-5-methyl-5,11-methanobenzocyclodecen-3,12-diol | 0.002 mole, 0.7 g | NC1C2(CCCCCC1C(C1=C2C=C(C=C1)O)O)C | C16H23NO2
reactant | hydrogen chloride | Cl | ClH
reactant | hydrochloride hemihydrate | O.Cl.Cl
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 13-Amino-5,6,7,8,9,10-hexahydro-5-methyl-5,11-methanobenzocyclodecen-3-ol hydrochloride hemihydrate | 400 mg, 70% yield | O.Cl.NC1C2(CCCCCC1=CC1=C2C=C(C=C1)O)C.NC1C2(CCCCCC1=CC1=C2C=C(C=C1)O)C.Cl | InChI=1S/2C16H21NO.2ClH.H2O/c2*1-16-8-4-2-3-5-12(15(16)17)9-11-6-7-13(18)10-14(11)16;;;/h2*6-7,9-10,15,18H,2-5,8,17H2,1H3;2*1H;1H2
